US05569655
To a solution of n-butyllithium (2.5M, 28 ml, 0.07 mol) in 150 ml of ether at -78° C. was added a solution of 3-bromofuran (10 g, 0.0628 mol) in 30 ml of ether over a 20 min period and the mixture was stirred at -78° C. for 20 min. To the above mixture was added 3-(N-methyl-N-methoxycarbamoyl)furan (9.16 g, 0.059 mol) in 30 ml of ether over a 15 min period and the mixture was stirred at room temperature for 1/2 h. The reaction mixture was quenched with 200 ml of ammonium chloride solution, 500 ml of methylene chloride was added and the mixture was stirred. The organic layer was dried over sodium sulfate, concentrated in vacuo, and the residue was triturated in 100 ml of hexane/t-butylmethylether (9:1). The solid product was filtered and washed with t-butylmethylether to afford 7.5 g (78.3%) of di-(3-furyl)ketone.

reactant | n-butyllithium | 0.07 mol, 2.5M, 28 ml | C(CCC)[Li]
reactant | 3-bromofuran | 0.0628 mol, 10 g | BrC1=COC=C1 | C4H3BrO
reactant | 3-(N-methyl-N-methoxycarbamoyl)furan | 0.059 mol, 9.16 g | CN(C(=O)C1=COC=C1)OC | C7H9NO3
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
product | di-(3-furyl)ketone | 7.5 g, 78.3% | O1C=C(C=C1)C(=O)C1=COC=C1 | C9H6O3
